Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[O:1][O:2]/[C:3]([H:4])=[C:5]/[C:6]([H:7])([H:8])[C:9]([H:10])[H:11]>>[H:4].[O:1][O:2][C:3]#[C:5][C:6]([H:7])([H:8])[C:9]([H:10])[H:11],2.51095477669
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])[C:9]([H:10])([H:11])[H:12]>>[H:8].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7][C:9]([H:10])([H:11])[H:12],4.85852595008
[C:12]([H:13])([H:14])[H:15].[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11]>>[O:1][C@:2]([H:3])(/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-0.509124389649
[H:1][C:2][C:3]#[C:4][C:7]([H:8])([H:9])[H:10].[O:5][H:6]>>[H:1][C:2]#[C:3][C:4]([O:5][H:6])[C:7]([H:8])([H:9])[H:10],-5.983138632490001
[H:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])=[C:8]=[O:9]>>[H:1][O:2][C@@:3]1([C:4]([H:5])([H:6])[H:7])[C:8][O:9]1,1.86134364
[C:4]=[C:5]([H:6])[H:7].[H:1][O:2]/[C:3]=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2][C:3](=[C:4]=[C:5]([H:6])[H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[H:13],-4.42697350353
[H:10].[O:1][O:2][C:3]([H:4])([H:5])[C:6]=[C:7]([H:8])[H:9]>>[O:1][O:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[H:10],-1.9527022372
[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]=[C:11]([H:12])[H:13]>>[C:10]=[C:11]([H:12])[H:13].[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])[H:9],3.07678449821
[H:1][O:2][C:3]#[C:4][O:6][C:7]([H:8])[C:9]([H:10])([H:11])[H:12].[H:5]>>[H:1][O:2][C:3][C:4]([H:5])[O:6][C:7]([H:8])[C:9]([H:10])([H:11])[H:12],-2.83155732903
[C:1]#[C:2].[C:3]([H:4])=[C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:1]#[C:2][C:3]([H:4])=[C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-6.45754412553
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C@@:7]([H:8])([C:9]([H:10])=[C:11]([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[H:10].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C@@:7]([H:8])([C:9]=[C:11]([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],4.794692030259999
[C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9][O:10][H:11].[O:1]>>[O:1]=[C:2]([H:3])[C:4]([H:5])[C:6]([H:7])([H:8])[C:9][O:10][H:11],-5.7854477197000005
[O:1]=[C:2]([O:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:13].[O:1]=[C:2]([O:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])=[C:10]([H:11])[H:12],2.14997679727
[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11]>>[C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11].[H:1][O:2][O:3],2.9645574038
[C:4]([H:5])=[C:6]([H:7])[H:8].[O:1]=[C:2]([H:3])[C:9]([H:10])([H:11])[O:12][H:13]>>[O:1][C@@:2]([H:3])([C:4]([H:5])=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][H:13],-1.25305202136
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[O:11][C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:9](\[H:10])[O:11][C:12]([H:13])([H:14])[H:15].[H:8],2.0413934238
[C:10]([H:11])[H:12].[H:1][O:2][C:3]([H:4])([H:5])[C:6][O:7][C:8][H:9]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6][O:7][C:8]([H:9])=[C:10]([H:11])[H:12],-8.426732841729999
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[H:12].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[H:11],4.5617541280500005
[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[H:10]>>[H:10].[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])[H:9],4.6544870033
[C:4]([H:5])[O:6][H:7].[H:1][C:2]=[O:3]>>[H:1][C:2][O:3][C:4]([H:5])[O:6][H:7],-0.47426580599
[O:1]=[C:2]1[C:3]([O:4][H:5])=[C:6]([H:7])[C:8]1([H:9])[H:10]>>[O:1]=[C:2][C:8](/[C:6](=[C:3]/[O:4][H:5])[H:7])([H:9])[H:10],2.96318727632
[C:11]([H:12])([H:13])[H:14].[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[H:10]>>[H:1][C:2]([H:3])[C@:4]([H:5])([O:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-1.17475756827
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][O:8][C:9]([H:10])=[C:11]([H:12])[H:13]>>[H:1][C:2]([H:3])=[C:4]([H:5])[O:7][O:8][C:9]([H:10])=[C:11]([H:12])[H:13].[H:6],1.69977535997
[C:10]([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])[H:9]>>[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[H:15],-4.64315112032
[H:1][C:2]=[C:3]([H:4])[C:5]([C:6]([H:7])([H:8])[H:9])=[C:10]([H:11])[H:12].[O:13][H:14]>>[H:1][C:2]/[C:3]([H:4])=[C:5](\[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[O:13][H:14],-2.77009845182
[C:4]([H:5])([H:6])[H:7].[H:1][C:2]#[C:3][C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15]>>[H:1][C:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15],-1.5252313872299998
[H:6].[O:1]=[C:2]([H:3])[C:4]([H:5])[O:7][C:8]([H:9])=[C:10]([H:11])[H:12]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])=[C:10]([H:11])[H:12],-3.5544264753699992
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7].[O:8]=[C:9]([H:10])[H:11]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7][O:8][C:9]([H:10])[H:11],-1.5831880324599998
[O:1]=[C:2]([C:3]([H:4])[H:5])[C:6]([H:7])=[C:8]([H:9])[H:10]>>[C:6]([H:7])=[C:8]([H:9])[H:10].[O:1]=[C:2]=[C:3]([H:4])[H:5],2.00619849971
